US09278983B2
A mixture of 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (0.20 g), sodium periodate (0.18 g), methanol (3 ml), water (1 ml), and THF (0.4 ml) was stirred at room temperature for 3.3 hours. Water was poured thereinto under ice-cooling, and then the precipitated solid was collected by filtration. The obtained solid was washed with water and hexane, and dried to give 0.19 g of 6-bromo-2-(2-ethylsulfinylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 43).

reactant | 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.20 g | BrC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C15H14BrN3S
reactant | sodium periodate | 0.18 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | methanol | 3 ml | CO | CH4O
solvent | Water | O | H2O
solvent | THF | 0.4 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 6-bromo-2-(2-ethylsulfinylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.19 g | BrC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)S(=O)CC)C | C15H14BrN3OS
